US06180622B2
(3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidine
The procedure of Synthesis Example 1 is repeated, except that 260 mg of (3S,5S)-3-acetylthio-1-allyloxycarbonylpyrrolidin-5-carboxylic acid, 0.95 ml of a 1.1 M Vilsmeier reagent/dichloromethane solution, and 159 mg of 5-(N-methylaminomethyl)imidazo[5,1-b]thiazole. Thus, 190.6 mg of the title compound is prepared as a slightly yellow amorphous material.

reactant | (3S,5S)-3-acetylthio-1-allyloxycarbonylpyrrolidin-5-carboxylic acid | 260 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(=O)O)C(=O)OCC=C | C11H15NO5S
reactant | Vilsmeier reagent dichloromethane | 1.1 M | C[N+](=CCl)C.[Cl-].ClCCl
reactant | 5-(N-methylaminomethyl)imidazo[5,1-b]thiazole | 159 mg | CNCC1=NC=C2SC=CN21 | C7H9N3S
product | (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidine | 190.6 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(=O)N(C)CC1=NC=C2SC=CN21)C(=O)OCC=C | C18H22N4O4S2
